US09303023B2
3-(4,6-Dimethoxypyrimidin-2-yl)propyl methanesulfonate
To a solution of 3-(4,6-dimethoxypyrimidin-2-yl)propan-1-ol (100 mg, 0.50 mmol) in DCM (2.0 mL), Et3N (0.21 mL, 1.51 mmol) was added. After stirring for 5 min at rt, the reaction mixture was cooled to 0° C. and methansulfonylchloride (0.05 mL, 0.61 mmol) was added. The reaction mixture was stirred for 10 min at 0° C. and for 20 min at rt, then poured onto ice water. The aq. layer was extracted with DCM, the org. layer was washed with 1 N aq. HCl-solution followed by sat. NaHCO3-solution, then dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield the tiltle compound as a yellow oil which was used immediately in the next step. The LC-MS conditions B: tR=0.60 min, [M+H]+=277.09.

reactant | 3-(4,6-dimethoxypyrimidin-2-yl)propan-1-ol | 0.50 mmol, 100 mg | COC1=NC(=NC(=C1)OC)CCCO | C9H14N2O3
reactant | Et3N | 1.51 mmol, 0.21 mL | CCN(CC)CC | C6H15N
reactant | methansulfonylchloride | 0.61 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(4,6-Dimethoxypyrimidin-2-yl)propyl methanesulfonate | CS(=O)(=O)OCCCC1=NC(=CC(=N1)OC)OC | C10H16N2O5S
